US07868001B2
3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile (6 mmol) in 40 ml MeOH and 30 ml THF was added Raney-Ni (0.6mmol) and 1 ml ammonia hydrate solution and stirred at room temperature for 4 h. Raney-Ni was removed and the filtrate was concentrated to yield (3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)phenyl)methanamine (70.2%).

reactant | 3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)benzonitrile | 6 mmol | N=1C(=CN2N=CC=CC21)C=2C=C(C#N)C=C(C2)OCCOC | C16H14N4O2
reactant | ammonia hydrate | 1 ml | O.N
solvent | MeOH | 40 ml | CO | CH4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | Ni | 0.6mmol | [Ni] | Ni
product | (3-(imidazo[1,2-b]pyridazin-2-yl)-5-(2-methoxyethoxy)phenyl)methanamine | 70.2% | N=1C(=CN2N=CC=CC21)C=2C=C(C=C(C2)OCCOC)CN | C16H18N4O2
